US04098823
A solution of 4.0 g of (2-methylspiro[3.3]hept-2-yl) (2-hydroxyvinyl) ketone in 25.0 ml of benzene was added dropwise with stirring to 3.95 g of thionyl chloride. The reaction mixture was allowed to stand for 18 hr at 25° C. The product was isolated by distillation (high vacuum) to afford 2.66 g 1-chloro-3-(2-methylspiro[3.3]hept-2-yl)-1E-propen-3-one as a yellow oil (40%).

reactant | (2-methylspiro[3.3]hept-2-yl) (2-hydroxyvinyl) ketone | 4.0 g | OC=CC(=O)C1(CC2(C1)CCC2)C | C11H16O2
reactant | thionyl chloride | 3.95 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 25.0 ml | C1=CC=CC=C1 | C6H6
product | 1-chloro-3-(2-methylspiro[3.3]hept-2-yl)-1E-propen-3-one | 2.66 g, 40% | Cl\C=C\C(=O)C1(CC2(C1)CCC2)C | C11H15ClO
